US04312876
Trans-1-(2-cyanoethyl)-4-(4-fluorophenoxy)-3-phenylpiperidine hydrochloride
A mixture of 2.82 g of trans-4-(4-fluorophenoxy)-3-phenylpiperidine and 5 ml of acrylonitrile is stirred for two hours at room temperature under nitrogen. The mixture is diluted with ether (50 ml) and treated dropwise with 20 ml of saturated ethereal hydrogen chloride solution. After stirring for a few minutes the solid is filtered, washed with ether and dried to afford a colorless solid. Recrystallization from isopropanol (80 ml) gives of product as colorless crystals, mp 212°-214°0 C.

reactant | trans-4-(4-fluorophenoxy)-3-phenylpiperidine | 2.82 g | FC1=CC=C(O[C@H]2[C@@H](CNCC2)C2=CC=CC=C2)C=C1 | C17H18FNO
reactant | acrylonitrile | 5 ml | C(C=C)#N | C3H3N
reactant | hydrogen chloride | 20 ml | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
product | Trans-1-(2-cyanoethyl)-4-(4-fluorophenoxy)-3-phenylpiperidine hydrochloride | Cl.C(#N)CCN1C[C@H]([C@@H](CC1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/C20H21FN2O.ClH/c21-17-7-9-18(10-8-17)24-20-11-14-23(13-4-12-22)15-19(20)16-5-2-1-3-6-16;/h1-3,5-10,19-20H,4,11,13-15H2;1H/t19-,20+;/m0./s1
